US05616596
A mixture of ethyl 4-bromobutyrate (5.85 g, 30.0 mmol), 2-thiophenemethylamine (13.6 g, 120 mmol), and N,N-diisopropylethylamine (3.88 g, 30.0 mmol) in benzene (100 mL) was stirred under N2 at reflux for 2 hours. The reaction mixture was cooled to ambient temperature and filtered. The residue was concentrated in vacuo, dissolved in ether, and washed twice with 2N aqueous HCl, and once with brine, then dried over MgSO4, filtered, and concentrated in vacuo to give 2-(pyrrolodin-2-one-1-ylmethyl)thiophene (2.59 g) as an oil.

reactant | ethyl 4-bromobutyrate | 30.0 mmol, 5.85 g | BrCCCC(=O)OCC | C6H11BrO2
reactant | 2-thiophenemethylamine | 120 mmol, 13.6 g | S1C(=CC=C1)CN | C5H7NS
reactant | N,N-diisopropylethylamine | 30.0 mmol, 3.88 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
product | 2-(pyrrolodin-2-one-1-ylmethyl)thiophene | 2.59 g | N1(C(CCC1)=O)CC=1SC=CC1 | C9H11NOS
